*-- pdngen: spice deck generated for chip 'chiplet4' PDN
*-- die chiplet4:  W/H: 0.002/0.004


.subckt chiplet4
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
*-- p/g port #: 16/16
+nd_1_0_7000_3500

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_500 nd_1_0_3000_500 0.016324
rd_1_2_0_0_1 nd_1_0_3000_500 nd_1_0_5000_500 0.016324
rd_1_2_0_0_2 nd_1_0_5000_500 nd_1_0_7000_500 0.016324
rd_1_2_0_0_3 nd_1_0_7000_500 nd_1_0_9000_500 0.016324
rd_1_2_0_1_0 nd_1_0_1000_1500 nd_1_0_3000_1500 0.016324
rd_1_2_0_1_1 nd_1_0_3000_1500 nd_1_0_5000_1500 0.016324
rd_1_2_0_1_2 nd_1_0_5000_1500 nd_1_0_7000_1500 0.016324
rd_1_2_0_1_3 nd_1_0_7000_1500 nd_1_0_9000_1500 0.016324
rd_1_2_0_2_0 nd_1_0_1000_2500 nd_1_0_3000_2500 0.016324
rd_1_2_0_2_1 nd_1_0_3000_2500 nd_1_0_5000_2500 0.016324
rd_1_2_0_2_2 nd_1_0_5000_2500 nd_1_0_7000_2500 0.016324
rd_1_2_0_2_3 nd_1_0_7000_2500 nd_1_0_9000_2500 0.016324
rd_1_2_0_3_0 nd_1_0_1000_3500 nd_1_0_3000_3500 0.016324
rd_1_2_0_3_1 nd_1_0_3000_3500 nd_1_0_5000_3500 0.016324
rd_1_2_0_3_2 nd_1_0_5000_3500 nd_1_0_7000_3500 0.016324
rd_1_2_0_3_3 nd_1_0_7000_3500 nd_1_0_9000_3500 0.016324
rd_1_2_0_4_0 nd_1_0_1000_4500 nd_1_0_3000_4500 0.016324
rd_1_2_0_4_1 nd_1_0_3000_4500 nd_1_0_5000_4500 0.016324
rd_1_2_0_4_2 nd_1_0_5000_4500 nd_1_0_7000_4500 0.016324
rd_1_2_0_4_3 nd_1_0_7000_4500 nd_1_0_9000_4500 0.016324
rd_1_2_0_5_0 nd_1_0_1000_5500 nd_1_0_3000_5500 0.016324
rd_1_2_0_5_1 nd_1_0_3000_5500 nd_1_0_5000_5500 0.016324
rd_1_2_0_5_2 nd_1_0_5000_5500 nd_1_0_7000_5500 0.016324
rd_1_2_0_5_3 nd_1_0_7000_5500 nd_1_0_9000_5500 0.016324
rd_1_2_0_6_0 nd_1_0_1000_6500 nd_1_0_3000_6500 0.016324
rd_1_2_0_6_1 nd_1_0_3000_6500 nd_1_0_5000_6500 0.016324
rd_1_2_0_6_2 nd_1_0_5000_6500 nd_1_0_7000_6500 0.016324
rd_1_2_0_6_3 nd_1_0_7000_6500 nd_1_0_9000_6500 0.016324
rd_1_2_0_7_0 nd_1_0_1000_7500 nd_1_0_3000_7500 0.016324
rd_1_2_0_7_1 nd_1_0_3000_7500 nd_1_0_5000_7500 0.016324
rd_1_2_0_7_2 nd_1_0_5000_7500 nd_1_0_7000_7500 0.016324
rd_1_2_0_7_3 nd_1_0_7000_7500 nd_1_0_9000_7500 0.016324
rd_1_2_0_8_0 nd_1_0_1000_8500 nd_1_0_3000_8500 0.016324
rd_1_2_0_8_1 nd_1_0_3000_8500 nd_1_0_5000_8500 0.016324
rd_1_2_0_8_2 nd_1_0_5000_8500 nd_1_0_7000_8500 0.016324
rd_1_2_0_8_3 nd_1_0_7000_8500 nd_1_0_9000_8500 0.016324
rd_1_2_0_9_0 nd_1_0_1000_9500 nd_1_0_3000_9500 0.016324
rd_1_2_0_9_1 nd_1_0_3000_9500 nd_1_0_5000_9500 0.016324
rd_1_2_0_9_2 nd_1_0_5000_9500 nd_1_0_7000_9500 0.016324
rd_1_2_0_9_3 nd_1_0_7000_9500 nd_1_0_9000_9500 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_500 nd_2_0_1000_1500 0.016324
rd_2_1_0_0_1 nd_2_0_1000_1500 nd_2_0_1000_2500 0.016324
rd_2_1_0_0_2 nd_2_0_1000_2500 nd_2_0_1000_3500 0.016324
rd_2_1_0_0_3 nd_2_0_1000_3500 nd_2_0_1000_4500 0.016324
rd_2_1_0_0_4 nd_2_0_1000_4500 nd_2_0_1000_5500 0.016324
rd_2_1_0_0_5 nd_2_0_1000_5500 nd_2_0_1000_6500 0.016324
rd_2_1_0_0_6 nd_2_0_1000_6500 nd_2_0_1000_7500 0.016324
rd_2_1_0_0_7 nd_2_0_1000_7500 nd_2_0_1000_8500 0.016324
rd_2_1_0_0_8 nd_2_0_1000_8500 nd_2_0_1000_9500 0.016324
rd_2_1_0_1_0 nd_2_0_3000_500 nd_2_0_3000_1500 0.016324
rd_2_1_0_1_1 nd_2_0_3000_1500 nd_2_0_3000_2500 0.016324
rd_2_1_0_1_2 nd_2_0_3000_2500 nd_2_0_3000_3500 0.016324
rd_2_1_0_1_3 nd_2_0_3000_3500 nd_2_0_3000_4500 0.016324
rd_2_1_0_1_4 nd_2_0_3000_4500 nd_2_0_3000_5500 0.016324
rd_2_1_0_1_5 nd_2_0_3000_5500 nd_2_0_3000_6500 0.016324
rd_2_1_0_1_6 nd_2_0_3000_6500 nd_2_0_3000_7500 0.016324
rd_2_1_0_1_7 nd_2_0_3000_7500 nd_2_0_3000_8500 0.016324
rd_2_1_0_1_8 nd_2_0_3000_8500 nd_2_0_3000_9500 0.016324
rd_2_1_0_2_0 nd_2_0_5000_500 nd_2_0_5000_1500 0.016324
rd_2_1_0_2_1 nd_2_0_5000_1500 nd_2_0_5000_2500 0.016324
rd_2_1_0_2_2 nd_2_0_5000_2500 nd_2_0_5000_3500 0.016324
rd_2_1_0_2_3 nd_2_0_5000_3500 nd_2_0_5000_4500 0.016324
rd_2_1_0_2_4 nd_2_0_5000_4500 nd_2_0_5000_5500 0.016324
rd_2_1_0_2_5 nd_2_0_5000_5500 nd_2_0_5000_6500 0.016324
rd_2_1_0_2_6 nd_2_0_5000_6500 nd_2_0_5000_7500 0.016324
rd_2_1_0_2_7 nd_2_0_5000_7500 nd_2_0_5000_8500 0.016324
rd_2_1_0_2_8 nd_2_0_5000_8500 nd_2_0_5000_9500 0.016324
rd_2_1_0_3_0 nd_2_0_7000_500 nd_2_0_7000_1500 0.016324
rd_2_1_0_3_1 nd_2_0_7000_1500 nd_2_0_7000_2500 0.016324
rd_2_1_0_3_2 nd_2_0_7000_2500 nd_2_0_7000_3500 0.016324
rd_2_1_0_3_3 nd_2_0_7000_3500 nd_2_0_7000_4500 0.016324
rd_2_1_0_3_4 nd_2_0_7000_4500 nd_2_0_7000_5500 0.016324
rd_2_1_0_3_5 nd_2_0_7000_5500 nd_2_0_7000_6500 0.016324
rd_2_1_0_3_6 nd_2_0_7000_6500 nd_2_0_7000_7500 0.016324
rd_2_1_0_3_7 nd_2_0_7000_7500 nd_2_0_7000_8500 0.016324
rd_2_1_0_3_8 nd_2_0_7000_8500 nd_2_0_7000_9500 0.016324
rd_2_1_0_4_0 nd_2_0_9000_500 nd_2_0_9000_1500 0.016324
rd_2_1_0_4_1 nd_2_0_9000_1500 nd_2_0_9000_2500 0.016324
rd_2_1_0_4_2 nd_2_0_9000_2500 nd_2_0_9000_3500 0.016324
rd_2_1_0_4_3 nd_2_0_9000_3500 nd_2_0_9000_4500 0.016324
rd_2_1_0_4_4 nd_2_0_9000_4500 nd_2_0_9000_5500 0.016324
rd_2_1_0_4_5 nd_2_0_9000_5500 nd_2_0_9000_6500 0.016324
rd_2_1_0_4_6 nd_2_0_9000_6500 nd_2_0_9000_7500 0.016324
rd_2_1_0_4_7 nd_2_0_9000_7500 nd_2_0_9000_8500 0.016324
rd_2_1_0_4_8 nd_2_0_9000_8500 nd_2_0_9000_9500 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_500 nd_2_0_1000_500 0.005
rvd_1_0_0_1 nd_1_0_3000_500 nd_2_0_3000_500 0.005
rvd_1_0_0_2 nd_1_0_5000_500 nd_2_0_5000_500 0.005
rvd_1_0_0_3 nd_1_0_7000_500 nd_2_0_7000_500 0.005
rvd_1_0_0_4 nd_1_0_9000_500 nd_2_0_9000_500 0.005
rvd_1_0_1_0 nd_1_0_1000_1500 nd_2_0_1000_1500 0.005
rvd_1_0_1_1 nd_1_0_3000_1500 nd_2_0_3000_1500 0.005
rvd_1_0_1_2 nd_1_0_5000_1500 nd_2_0_5000_1500 0.005
rvd_1_0_1_3 nd_1_0_7000_1500 nd_2_0_7000_1500 0.005
rvd_1_0_1_4 nd_1_0_9000_1500 nd_2_0_9000_1500 0.005
rvd_1_0_2_0 nd_1_0_1000_2500 nd_2_0_1000_2500 0.005
rvd_1_0_2_1 nd_1_0_3000_2500 nd_2_0_3000_2500 0.005
rvd_1_0_2_2 nd_1_0_5000_2500 nd_2_0_5000_2500 0.005
rvd_1_0_2_3 nd_1_0_7000_2500 nd_2_0_7000_2500 0.005
rvd_1_0_2_4 nd_1_0_9000_2500 nd_2_0_9000_2500 0.005
rvd_1_0_3_0 nd_1_0_1000_3500 nd_2_0_1000_3500 0.005
rvd_1_0_3_1 nd_1_0_3000_3500 nd_2_0_3000_3500 0.005
rvd_1_0_3_2 nd_1_0_5000_3500 nd_2_0_5000_3500 0.005
rvd_1_0_3_3 nd_1_0_7000_3500 nd_2_0_7000_3500 0.005
rvd_1_0_3_4 nd_1_0_9000_3500 nd_2_0_9000_3500 0.005
rvd_1_0_4_0 nd_1_0_1000_4500 nd_2_0_1000_4500 0.005
rvd_1_0_4_1 nd_1_0_3000_4500 nd_2_0_3000_4500 0.005
rvd_1_0_4_2 nd_1_0_5000_4500 nd_2_0_5000_4500 0.005
rvd_1_0_4_3 nd_1_0_7000_4500 nd_2_0_7000_4500 0.005
rvd_1_0_4_4 nd_1_0_9000_4500 nd_2_0_9000_4500 0.005
rvd_1_0_5_0 nd_1_0_1000_5500 nd_2_0_1000_5500 0.005
rvd_1_0_5_1 nd_1_0_3000_5500 nd_2_0_3000_5500 0.005
rvd_1_0_5_2 nd_1_0_5000_5500 nd_2_0_5000_5500 0.005
rvd_1_0_5_3 nd_1_0_7000_5500 nd_2_0_7000_5500 0.005
rvd_1_0_5_4 nd_1_0_9000_5500 nd_2_0_9000_5500 0.005
rvd_1_0_6_0 nd_1_0_1000_6500 nd_2_0_1000_6500 0.005
rvd_1_0_6_1 nd_1_0_3000_6500 nd_2_0_3000_6500 0.005
rvd_1_0_6_2 nd_1_0_5000_6500 nd_2_0_5000_6500 0.005
rvd_1_0_6_3 nd_1_0_7000_6500 nd_2_0_7000_6500 0.005
rvd_1_0_6_4 nd_1_0_9000_6500 nd_2_0_9000_6500 0.005
rvd_1_0_7_0 nd_1_0_1000_7500 nd_2_0_1000_7500 0.005
rvd_1_0_7_1 nd_1_0_3000_7500 nd_2_0_3000_7500 0.005
rvd_1_0_7_2 nd_1_0_5000_7500 nd_2_0_5000_7500 0.005
rvd_1_0_7_3 nd_1_0_7000_7500 nd_2_0_7000_7500 0.005
rvd_1_0_7_4 nd_1_0_9000_7500 nd_2_0_9000_7500 0.005
rvd_1_0_8_0 nd_1_0_1000_8500 nd_2_0_1000_8500 0.005
rvd_1_0_8_1 nd_1_0_3000_8500 nd_2_0_3000_8500 0.005
rvd_1_0_8_2 nd_1_0_5000_8500 nd_2_0_5000_8500 0.005
rvd_1_0_8_3 nd_1_0_7000_8500 nd_2_0_7000_8500 0.005
rvd_1_0_8_4 nd_1_0_9000_8500 nd_2_0_9000_8500 0.005
rvd_1_0_9_0 nd_1_0_1000_9500 nd_2_0_1000_9500 0.005
rvd_1_0_9_1 nd_1_0_3000_9500 nd_2_0_3000_9500 0.005
rvd_1_0_9_2 nd_1_0_5000_9500 nd_2_0_5000_9500 0.005
rvd_1_0_9_3 nd_1_0_7000_9500 nd_2_0_7000_9500 0.005
rvd_1_0_9_4 nd_1_0_9000_9500 nd_2_0_9000_9500 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_1000_500 0 pwl(0 0.0 2.007e-01ns 0.0  2.507e-01ns 4.6e-02  6.564e-01ns 4.6e-02  7.064e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_500 nd_1_0_1000_500_ci 4.30039
cd_0_0_0_0 nd_1_0_1000_500_ci 0 6.79314e-13
id_0_0_0_1 nd_1_0_3000_500 0 pwl(0 0.0 7.649e-02ns 0.0  1.265e-01ns 4.5e-03  7.880e-01ns 4.5e-03  8.380e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_500 nd_1_0_3000_500_ci 28.0012
cd_0_0_0_1 nd_1_0_3000_500_ci 0 2.73758e-12
id_0_0_0_2 nd_1_0_5000_500 0 pwl(0 0.0 5.325e-01ns 0.0  5.825e-01ns 3.2e-02  8.806e-01ns 3.2e-02  9.306e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_500 nd_1_0_5000_500_ci 8.01611
cd_0_0_0_2 nd_1_0_5000_500_ci 0 2.2145e-11
id_0_0_0_3 nd_1_0_7000_500 0 pwl(0 0.0 9.483e-02ns 0.0  1.448e-01ns 4.6e-02  5.158e-01ns 4.6e-02  5.658e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_500 nd_1_0_7000_500_ci 4.65125
cd_0_0_0_3 nd_1_0_7000_500_ci 0 2.31692e-11
id_0_0_0_4 nd_1_0_9000_500 0 pwl(0 0.0 2.301e-01ns 0.0  2.801e-01ns 1.0e-01  3.592e-01ns 1.0e-01  4.092e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_500 nd_1_0_9000_500_ci 6.89348
cd_0_0_0_4 nd_1_0_9000_500_ci 0 5.46417e-12
id_0_0_0_5 nd_1_0_1000_1500 0 pwl(0 0.0 3.627e-01ns 0.0  4.127e-01ns 1.8e-01  4.781e-01ns 1.8e-01  5.281e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_1500 nd_1_0_1000_1500_ci 4.27425
cd_0_0_0_5 nd_1_0_1000_1500_ci 0 1.58349e-11
id_0_0_0_6 nd_1_0_3000_1500 0 pwl(0 0.0 3.729e-01ns 0.0  4.229e-01ns 3.4e-02  5.669e-01ns 3.4e-02  6.169e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_1500 nd_1_0_3000_1500_ci 13.6107
cd_0_0_0_6 nd_1_0_3000_1500_ci 0 5.1106e-12
id_0_0_0_7 nd_1_0_5000_1500 0 pwl(0 0.0 5.698e-02ns 0.0  1.070e-01ns 4.1e-03  8.860e-01ns 4.1e-03  9.360e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_1500 nd_1_0_5000_1500_ci 26.4798
cd_0_0_0_7 nd_1_0_5000_1500_ci 0 7.53881e-12
id_0_0_0_8 nd_1_0_7000_1500 0 pwl(0 0.0 6.472e-02ns 0.0  1.147e-01ns 4.8e-02  4.752e-01ns 4.8e-02  5.252e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_1500 nd_1_0_7000_1500_ci 4.58889
cd_0_0_0_8 nd_1_0_7000_1500_ci 0 6.4436e-12
id_0_0_0_9 nd_1_0_9000_1500 0 pwl(0 0.0 6.501e-01ns 0.0  7.001e-01ns 7.3e-02  7.202e-01ns 7.3e-02  7.702e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_1500 nd_1_0_9000_1500_ci 17.6436
cd_0_0_0_9 nd_1_0_9000_1500_ci 0 1.76879e-12
id_0_0_0_10 nd_1_0_1000_2500 0 pwl(0 0.0 7.855e-01ns 0.0  8.355e-01ns 1.4e-02  9.193e-01ns 1.4e-02  9.693e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_2500 nd_1_0_1000_2500_ci 46.4604
cd_0_0_0_10 nd_1_0_1000_2500_ci 0 3.49202e-12
id_0_0_0_11 nd_1_0_3000_2500 0 pwl(0 0.0 1.956e-02ns 0.0  6.956e-02ns 2.6e-02  8.476e-01ns 2.6e-02  8.976e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_2500 nd_1_0_3000_2500_ci 4.25455
cd_0_0_0_11 nd_1_0_3000_2500_ci 0 2.14384e-11
id_0_0_0_12 nd_1_0_5000_2500 0 pwl(0 0.0 1.541e-01ns 0.0  2.041e-01ns 4.4e-02  4.925e-01ns 4.4e-02  5.425e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_2500 nd_1_0_5000_2500_ci 6.06621
cd_0_0_0_12 nd_1_0_5000_2500_ci 0 3.62855e-12
id_0_0_0_13 nd_1_0_7000_2500 0 pwl(0 0.0 6.142e-01ns 0.0  6.642e-01ns 1.9e-01  6.765e-01ns 1.9e-01  7.265e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_2500 nd_1_0_7000_2500_ci 7.66169
cd_0_0_0_13 nd_1_0_7000_2500_ci 0 1.61234e-11
id_0_0_0_14 nd_1_0_9000_2500 0 pwl(0 0.0 3.004e-01ns 0.0  3.504e-01ns 1.8e-02  7.646e-01ns 1.8e-02  8.146e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_2500 nd_1_0_9000_2500_ci 10.6852
cd_0_0_0_14 nd_1_0_9000_2500_ci 0 4.97242e-12
id_0_0_0_15 nd_1_0_1000_3500 0 pwl(0 0.0 8.863e-01ns 0.0  9.363e-01ns 2.7e-01  9.478e-01ns 2.7e-01  9.978e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_3500 nd_1_0_1000_3500_ci 5.43992
cd_0_0_0_15 nd_1_0_1000_3500_ci 0 1.54102e-11
id_0_0_0_16 nd_1_0_3000_3500 0 pwl(0 0.0 1.213e-01ns 0.0  1.713e-01ns 1.4e-02  8.349e-01ns 1.4e-02  8.849e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_3500 nd_1_0_3000_3500_ci 8.82586
cd_0_0_0_16 nd_1_0_3000_3500_ci 0 1.55206e-12
id_0_0_0_17 nd_1_0_5000_3500 0 pwl(0 0.0 1.286e-01ns 0.0  1.786e-01ns 8.4e-03  9.496e-01ns 8.4e-03  9.996e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_3500 nd_1_0_5000_3500_ci 13.0156
cd_0_0_0_17 nd_1_0_5000_3500_ci 0 8.89277e-12
id_0_0_0_18 nd_1_0_7000_3500 0 pwl(0 0.0 7.167e-01ns 0.0  7.667e-01ns 2.2e-02  8.859e-01ns 2.2e-02  9.359e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_3500 nd_1_0_7000_3500_ci 23.6719
cd_0_0_0_18 nd_1_0_7000_3500_ci 0 5.02057e-12
id_0_0_0_19 nd_1_0_9000_3500 0 pwl(0 0.0 7.277e-01ns 0.0  7.777e-01ns 2.5e-01  8.066e-01ns 2.5e-01  8.566e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_3500 nd_1_0_9000_3500_ci 4.50729
cd_0_0_0_19 nd_1_0_9000_3500_ci 0 3.29023e-11
id_0_0_0_20 nd_1_0_1000_4500 0 pwl(0 0.0 8.649e-01ns 0.0  9.149e-01ns 7.0e-02  9.435e-01ns 7.0e-02  9.935e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_4500 nd_1_0_1000_4500_ci 16.3291
cd_0_0_0_20 nd_1_0_1000_4500_ci 0 4.81303e-12
id_0_0_0_21 nd_1_0_3000_4500 0 pwl(0 0.0 5.520e-01ns 0.0  6.020e-01ns 1.4e-02  7.161e-01ns 1.4e-02  7.661e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_4500 nd_1_0_3000_4500_ci 40.3423
cd_0_0_0_21 nd_1_0_3000_4500_ci 0 1.99348e-12
id_0_0_0_22 nd_1_0_5000_4500 0 pwl(0 0.0 5.520e-01ns 0.0  6.020e-01ns 2.7e-02  9.409e-01ns 2.7e-02  9.909e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_4500 nd_1_0_5000_4500_ci 8.69145
cd_0_0_0_22 nd_1_0_5000_4500_ci 0 1.08412e-12
id_0_0_0_23 nd_1_0_7000_4500 0 pwl(0 0.0 6.903e-01ns 0.0  7.403e-01ns 5.2e-02  7.670e-01ns 5.2e-02  8.170e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_4500 nd_1_0_7000_4500_ci 22.5986
cd_0_0_0_23 nd_1_0_7000_4500_ci 0 6.20322e-12
id_0_0_0_24 nd_1_0_9000_4500 0 pwl(0 0.0 3.773e-01ns 0.0  4.273e-01ns 2.6e-02  8.335e-01ns 2.6e-02  8.835e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_4500 nd_1_0_9000_4500_ci 7.46411
cd_0_0_0_24 nd_1_0_9000_4500_ci 0 9.51269e-12
id_0_0_0_25 nd_1_0_1000_5500 0 pwl(0 0.0 6.390e-02ns 0.0  1.139e-01ns 1.3e-02  7.726e-01ns 1.3e-02  8.226e-01ns 0.0)
rdesr_0_0_0_25 nd_1_0_1000_5500 nd_1_0_1000_5500_ci 10.1311
cd_0_0_0_25 nd_1_0_1000_5500_ci 0 9.84923e-12
id_0_0_0_26 nd_1_0_3000_5500 0 pwl(0 0.0 6.767e-02ns 0.0  1.177e-01ns 2.0e-02  8.985e-01ns 2.0e-02  9.485e-01ns 0.0)
rdesr_0_0_0_26 nd_1_0_3000_5500 nd_1_0_3000_5500_ci 5.29399
cd_0_0_0_26 nd_1_0_3000_5500_ci 0 1.93493e-11
id_0_0_0_27 nd_1_0_5000_5500 0 pwl(0 0.0 2.085e-01ns 0.0  2.585e-01ns 9.4e-02  3.201e-01ns 9.4e-02  3.701e-01ns 0.0)
rdesr_0_0_0_27 nd_1_0_5000_5500 nd_1_0_5000_5500_ci 8.55278
cd_0_0_0_27 nd_1_0_5000_5500_ci 0 1.54537e-11
id_0_0_0_28 nd_1_0_7000_5500 0 pwl(0 0.0 7.884e-01ns 0.0  8.384e-01ns 2.4e-01  8.647e-01ns 2.4e-01  9.147e-01ns 0.0)
rdesr_0_0_0_28 nd_1_0_7000_5500 nd_1_0_7000_5500_ci 4.83365
cd_0_0_0_28 nd_1_0_7000_5500_ci 0 1.27764e-11
id_0_0_0_29 nd_1_0_9000_5500 0 pwl(0 0.0 4.772e-01ns 0.0  5.272e-01ns 4.2e-02  8.417e-01ns 4.2e-02  8.917e-01ns 0.0)
rdesr_0_0_0_29 nd_1_0_9000_5500 nd_1_0_9000_5500_ci 5.82914
cd_0_0_0_29 nd_1_0_9000_5500_ci 0 3.30146e-11
id_0_0_0_30 nd_1_0_1000_6500 0 pwl(0 0.0 6.124e-01ns 0.0  6.624e-01ns 5.8e-03  7.756e-01ns 5.8e-03  8.256e-01ns 0.0)
rdesr_0_0_0_30 nd_1_0_1000_6500 nd_1_0_1000_6500_ci 94.979
cd_0_0_0_30 nd_1_0_1000_6500_ci 0 9.93496e-13
id_0_0_0_31 nd_1_0_3000_6500 0 pwl(0 0.0 6.189e-01ns 0.0  6.689e-01ns 2.7e-01  6.832e-01ns 2.7e-01  7.332e-01ns 0.0)
rdesr_0_0_0_31 nd_1_0_3000_6500 nd_1_0_3000_6500_ci 5.24159
cd_0_0_0_31 nd_1_0_3000_6500_ci 0 2.354e-11
id_0_0_0_32 nd_1_0_5000_6500 0 pwl(0 0.0 3.021e-01ns 0.0  3.521e-01ns 5.8e-03  7.691e-01ns 5.8e-03  8.191e-01ns 0.0)
rdesr_0_0_0_32 nd_1_0_5000_6500 nd_1_0_5000_6500_ci 33.3346
cd_0_0_0_32 nd_1_0_5000_6500_ci 0 4.62133e-12
id_0_0_0_33 nd_1_0_7000_6500 0 pwl(0 0.0 5.833e-01ns 0.0  6.333e-01ns 4.3e-01  6.344e-01ns 4.3e-01  6.844e-01ns 0.0)
rdesr_0_0_0_33 nd_1_0_7000_6500 nd_1_0_7000_6500_ci 4.074
cd_0_0_0_33 nd_1_0_7000_6500_ci 0 4.09481e-12
id_0_0_0_34 nd_1_0_9000_6500 0 pwl(0 0.0 2.638e-01ns 0.0  3.138e-01ns 5.0e-02  6.414e-01ns 5.0e-02  6.914e-01ns 0.0)
rdesr_0_0_0_34 nd_1_0_9000_6500 nd_1_0_9000_6500_ci 4.79554
cd_0_0_0_34 nd_1_0_9000_6500_ci 0 9.66081e-12
id_0_0_0_35 nd_1_0_1000_7500 0 pwl(0 0.0 2.790e-01ns 0.0  3.290e-01ns 2.5e-03  7.394e-01ns 2.5e-03  7.894e-01ns 0.0)
rdesr_0_0_0_35 nd_1_0_1000_7500 nd_1_0_1000_7500_ci 76.7392
cd_0_0_0_35 nd_1_0_1000_7500_ci 0 1.94217e-12
id_0_0_0_36 nd_1_0_3000_7500 0 pwl(0 0.0 4.113e-01ns 0.0  4.613e-01ns 1.0e-01  6.149e-01ns 1.0e-01  6.649e-01ns 0.0)
rdesr_0_0_0_36 nd_1_0_3000_7500 nd_1_0_3000_7500_ci 4.38782
cd_0_0_0_36 nd_1_0_3000_7500_ci 0 4.06895e-11
id_0_0_0_37 nd_1_0_5000_7500 0 pwl(0 0.0 3.604e-01ns 0.0  4.104e-01ns 3.2e-02  5.475e-01ns 3.2e-02  5.975e-01ns 0.0)
rdesr_0_0_0_37 nd_1_0_5000_7500 nd_1_0_5000_7500_ci 14.9201
cd_0_0_0_37 nd_1_0_5000_7500_ci 0 4.44334e-12
id_0_0_0_38 nd_1_0_7000_7500 0 pwl(0 0.0 4.890e-02ns 0.0  9.890e-02ns 7.3e-03  4.450e-01ns 7.3e-03  4.950e-01ns 0.0)
rdesr_0_0_0_38 nd_1_0_7000_7500 nd_1_0_7000_7500_ci 30.9426
cd_0_0_0_38 nd_1_0_7000_7500_ci 0 3.10383e-12
id_0_0_0_39 nd_1_0_9000_7500 0 pwl(0 0.0 5.154e-02ns 0.0  1.015e-01ns 4.7e-02  4.556e-01ns 4.7e-02  5.056e-01ns 0.0)
rdesr_0_0_0_39 nd_1_0_9000_7500 nd_1_0_9000_7500_ci 4.71559
cd_0_0_0_39 nd_1_0_9000_7500_ci 0 2.67492e-11
id_0_0_0_40 nd_1_0_1000_8500 0 pwl(0 0.0 1.910e-01ns 0.0  2.410e-01ns 4.9e-02  2.853e-01ns 4.9e-02  3.353e-01ns 0.0)
rdesr_0_0_0_40 nd_1_0_1000_8500 nd_1_0_1000_8500_ci 19.4847
cd_0_0_0_40 nd_1_0_1000_8500_ci 0 1.44613e-12
id_0_0_0_41 nd_1_0_3000_8500 0 pwl(0 0.0 3.222e-01ns 0.0  3.722e-01ns 2.7e-02  7.847e-01ns 2.7e-02  8.347e-01ns 0.0)
rdesr_0_0_0_41 nd_1_0_3000_8500 nd_1_0_3000_8500_ci 7.09292
cd_0_0_0_41 nd_1_0_3000_8500_ci 0 8.19842e-12
id_0_0_0_42 nd_1_0_5000_8500 0 pwl(0 0.0 4.565e-01ns 0.0  5.065e-01ns 8.3e-02  6.684e-01ns 8.3e-02  7.184e-01ns 0.0)
rdesr_0_0_0_42 nd_1_0_5000_8500 nd_1_0_5000_8500_ci 5.12397
cd_0_0_0_42 nd_1_0_5000_8500_ci 0 1.72652e-11
id_0_0_0_43 nd_1_0_7000_8500 0 pwl(0 0.0 1.413e-01ns 0.0  1.913e-01ns 4.8e-02  2.049e-01ns 4.8e-02  2.549e-01ns 0.0)
rdesr_0_0_0_43 nd_1_0_7000_8500 nd_1_0_7000_8500_ci 29.5195
cd_0_0_0_43 nd_1_0_7000_8500_ci 0 4.00911e-12
id_0_0_0_44 nd_1_0_9000_8500 0 pwl(0 0.0 7.328e-01ns 0.0  7.828e-01ns 8.1e-02  8.702e-01ns 8.1e-02  9.202e-01ns 0.0)
rdesr_0_0_0_44 nd_1_0_9000_8500 nd_1_0_9000_8500_ci 8.07837
cd_0_0_0_44 nd_1_0_9000_8500_ci 0 6.07644e-12
id_0_0_0_45 nd_1_0_1000_9500 0 pwl(0 0.0 7.374e-01ns 0.0  7.874e-01ns 1.2e-01  8.974e-01ns 1.2e-01  9.474e-01ns 0.0)
rdesr_0_0_0_45 nd_1_0_1000_9500 nd_1_0_1000_9500_ci 4.66277
cd_0_0_0_45 nd_1_0_1000_9500_ci 0 3.83555e-11
id_0_0_0_46 nd_1_0_3000_9500 0 pwl(0 0.0 4.260e-01ns 0.0  4.760e-01ns 6.3e-02  6.303e-01ns 6.3e-02  6.803e-01ns 0.0)
rdesr_0_0_0_46 nd_1_0_3000_9500 nd_1_0_3000_9500_ci 7.02651
cd_0_0_0_46 nd_1_0_3000_9500_ci 0 2.56703e-11
id_0_0_0_47 nd_1_0_5000_9500 0 pwl(0 0.0 5.542e-01ns 0.0  6.042e-01ns 4.5e-02  7.677e-01ns 4.5e-02  8.177e-01ns 0.0)
rdesr_0_0_0_47 nd_1_0_5000_9500 nd_1_0_5000_9500_ci 9.36371
cd_0_0_0_47 nd_1_0_5000_9500_ci 0 1.14552e-12
id_0_0_0_48 nd_1_0_7000_9500 0 pwl(0 0.0 2.430e-01ns 0.0  2.930e-01ns 1.4e-02  7.042e-01ns 1.4e-02  7.542e-01ns 0.0)
rdesr_0_0_0_48 nd_1_0_7000_9500 nd_1_0_7000_9500_ci 13.9839
cd_0_0_0_48 nd_1_0_7000_9500_ci 0 1.01062e-11
id_0_0_0_49 nd_1_0_9000_9500 0 pwl(0 0.0 8.297e-01ns 0.0  8.797e-01ns 4.7e-02  8.994e-01ns 4.7e-02  9.494e-01ns 0.0)
rdesr_0_0_0_49 nd_1_0_9000_9500 nd_1_0_9000_9500_ci 27.5615
cd_0_0_0_49 nd_1_0_9000_9500_ci 0 1.52591e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_1500 nd0 'dcap_int_val150'
cd_add_cap1 nd_1_0_7000_1500 nd1 'dcap_int_val151'
cd_add_cap2 nd_1_0_3000_3500 nd2 'dcap_int_val152'
cd_add_cap3 nd_1_0_7000_3500 nd3 'dcap_int_val153'
cd_add_cap4 nd_1_0_3000_5500 nd4 'dcap_int_val154'
cd_add_cap5 nd_1_0_7000_5500 nd5 'dcap_int_val155'
cd_add_cap6 nd_1_0_3000_8500 nd6 'dcap_int_val156'
cd_add_cap7 nd_1_0_7000_8500 nd7 'dcap_int_val157'
rd_add0 nd0 0 'esr29'
rd_add1 nd1 0 'esr30'
rd_add2 nd2 0 'esr31'
rd_add3 nd3 0 'esr32'
rd_add4 nd4 0 'esr33'
rd_add5 nd5 0 'esr34'
rd_add6 nd6 0 'esr35'
rd_add7 nd7 0 'esr36'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_2500  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_4500  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_6500  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_1000_8500  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1500  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_3500  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_5500  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_3000_7500  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_2500  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_4500  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_6500  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_5000_8500  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1500  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_3500  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_5500  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_7000_7500  0.001

.ends chiplet4
